US06977256B2
To a solution of morpholine-4-carboxylic acid (2-cyclopropylmethanesulfonyl-1-{1-[hydroxy-(5-phenyl-1,2,4-oxadiazol-3-yl)-methyl]-propylcarbamoyl}-ethyl)-amide (183 mg, 0.34 mmol) in methylene chloride (10 mL), Dess-Martin Periodinane (200 mg, 0.47 mmol) was added and stirred at room temperature for 2 hours. The reaction mixture was washed with a solution of Na2S2O3 in water (0.26M), saturated bicarbonate, and water, dried over Na2SO4 and concentrated under reduced pressure. The residue was subjected to flash chromatography eluting with a mixture of ethyl acetate and heptane to give morpholine-4-carboxylic acid {2-cyclopropylmethanesulfonyl-1-[1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propylcarbamoyl]-ethyl}-amide, a mixture of diastereomers, (45 mg) as an off white solid. 1H NMR (CDCl3): 8.22 (d, J=7 Hz, 2H), 7.83, 7.75 (2×d, J=7 Hz, 1H), 7.65 (m, 1H), 7.60-7.51 (m, 2H), 6.10-6.07 (2×d, J=7 Hz, 1H), 5.36 (m, 1H), 5.00-4.86 (m, 1H), 3.79 (m, 1H), 3.74-3.66 (m, 4H), 3.48 (m, 1H), 3.47-3.37 (m, 4H), 3.20-3.07 (m, 2H), 2.24-2.06 (m, 1H), 2.00-1.82 (m, 1H), 1.22 (m, 1H), 1.01 (t, J=7 Hz, 3H), 0.80-0.68 (m, 2H), 0.56-0.38 (m, 2H). MS: 534 (MH+).

reactant | morpholine-4-carboxylic acid (2-cyclopropylmethanesulfonyl-1-{1-[hydroxy-(5-phenyl-1,2,4-oxadiazol-3-yl)-methyl]-propylcarbamoyl}-ethyl)-amide | 0.34 mmol, 183 mg | C1(CC1)CS(=O)(=O)CC(C(NC(CC)C(C1=NOC(=N1)C1=CC=CC=C1)O)=O)NC(=O)N1CCOCC1 | C24H33N5O7S
reactant | Dess-Martin Periodinane | 0.47 mmol, 200 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | morpholine-4-carboxylic acid {2-cyclopropylmethanesulfonyl-1-[1-(5-phenyl-1,2,4-oxadiazole-3-carbonyl)-propylcarbamoyl]-ethyl}-amide | C1(CC1)CS(=O)(=O)CC(C(NC(CC)C(=O)C1=NOC(=N1)C1=CC=CC=C1)=O)NC(=O)N1CCOCC1 | C24H31N5O7S
